US07638514B2
680 mg of oxo-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester and 2.2 g of triphenylphosphine are introduced into 8 ml of acetonitrile. 0.8 ml of carbon tetrachloride is then added and the mixture is heated at reflux for 4 hours. The reaction mixture is concentrated completely and the crude product is purified over silica gel. 3,3-Dichloro-2-(4-trifluoromethyl-phenyl)-acrylic acid ethyl ester is obtained. 1H-NMR (CDCl3) 300 MHz: 1.30 (t, 3H), 4.30 (q, 2H), 7.52 (d, 2H), 7.68 (d, 2H).

reactant | oxo-(4-trifluoromethyl-phenyl)-acetic acid ethyl ester | 680 mg | C(C)OC(C(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C11H9F3O3
reactant | triphenylphosphine | 2.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | 8 ml | C(C)#N | C2H3N
reactant | carbon tetrachloride | 0.8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,3-Dichloro-2-(4-trifluoromethyl-phenyl)-acrylic acid ethyl ester | C(C)OC(C(=C(Cl)Cl)C1=CC=C(C=C1)C(F)(F)F)=O | C12H9Cl2F3O2
